US07268230B2
4-(7-Azaindol-5-yloxy)-7-{3-[4-(tert-butoxycarbonyl)piperazin-1-yl]propoxy}-6-methoxyquinazoline (1.9 g, 3.55 mmol) was suspended in dichloromethane (60 ml) and trifluoroacetic acid (2 ml) added dropwise. All solid dissolved at this point giving an orange solution which was stirred for 3 hours at ambient temperature. More trifluoroacetic acid (4 ml) was added and the mixture stirred overnight. The mixture was concentrated under reduced pressure and the residue concentrated from dichloromethane (×3) and toluene to remove trifluoroacetic acid. The residue was dissolved in methanol, placed on an Isolute SCX column, washed with methanol and then eluted with 7N ammonia in methanol. The product was then purified by column chromatography eluting with methylene chloride/methanol (saturated with ammonia) (95/5 followed by 93/7) to give 4-(7-azaindol-5-yloxy)-6-methoxy-7-(3-piperazin-1-ylpropoxy)quinazoline (660 mg, 43%) as a white foam.

reactant | 4-(7-Azaindol-5-yloxy)-7-{3-[4-(tert-butoxycarbonyl)piperazin-1-yl]propoxy}-6-methoxyquinazoline | 3.55 mmol, 1.9 g | N1C=CC2=CC(=CN=C12)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)C(=O)OC(C)(C)C | C28H34N6O5
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 4-(7-azaindol-5-yloxy)-6-methoxy-7-(3-piperazin-1-ylpropoxy)quinazoline | 660 mg, 43% | N1C=CC2=CC(=CN=C12)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCNCC1 | C23H26N6O3
